US05142056
2,8-Dimethyl-5-hydroxynonane
A solution of 5.63 g (33 mmol) of 2,8-dimethylnonan-5-one in 150 ml of methanol was cooled to 0° C. and treated with 0.8 g (21 mmol) of sodium borohydride. After 1 h, the solution was quenched with 1N HCl; diluted with 1:1 hexane/ether; washed sequentially with 1N NaOH, water, and saturated brine; dried over MgSO4 ; and concentrated in vacuo. Flash chromatography using 10% ethyl acetate in hexane gave 2.30 g (40%) of the desired compound (Rf 0.36, 20% ethyl acetate in hexane) as a colorless oil. 1H NMR (CDCl3) 0.88 (d, J=7 Hz, 6H), 0.89 (d, J=7 Hz, 6H), 1.1-1.6 (m, 10H), 3.56 (m, 1H).

reactant | 2,8-dimethylnonan-5-one | 33 mmol, 5.63 g | CC(C)CCC(CCC(C)C)=O | C11H22O
reactant | sodium borohydride | 21 mmol, 0.8 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 2,8-Dimethyl-5-hydroxynonane | 2.30 g | CC(C)CCC(CCC(C)C)O | C11H24O
